### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Grothendieck): Functors from the Grothendieck construction

### PR DESCRIPTION
**Pull request by javra**
Provides a constructor lemmas for functors `Grothendieck F ⥤ E` as well as the of fibers of `F` into `Grothendieck F`.

Also improves the simp behaviour for the identity morphism on the Grothendieck construction.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by javra** [comment]
Suggestions for the names as well as for a better packaging of the arguments to the constructor are very welcome :grin:

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 1]
```diff
@@ -306,6 +310,56 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
   map_comp f g := Grothendieck.ext _ _ (G.map_comp _ _) (by simp)
 
+section FunctorFrom
+
+variable {E : Type*} [Category E]
+
+/-- Partially apply a functor `H` on the Grothendieck construction of a functor `F : C ⥤ Cat` to
+an object `c : C` to obtain a functor `F.obj c ⥤ E` on the fiber over `c`. -/
+@[simps]
+def apply (H : Grothendieck F ⥤ E) (c : C) : F.obj c ⥤ E where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:320]: Would not it be more simple to define the "inclusion of fibers" functor `F.obj c ⥤ Grothendieck F`, which would make this "apply" unnecessary, because this would just be the precomposition with `H`. (Already, the definition of the `obj` and `map` fields formally looks like the composition of two functors.)

Comment (javra) [reply Mathlib/CategoryTheory/Grothendieck.lean:320]: Ah, thanks for the suggestion, I completely mised this.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 2]
```diff
@@ -306,6 +310,58 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+functors on the fibers of `Grothendieck F`, a family of natural transformations on morphisms in the
+base of `Grothendieck F` and coherence data for this family of natural transformations. -/
+@[simps]
+def functorFrom : Grothendieck F ⥤ E where
+  obj X := (fib X.base).obj X.fiber
+  map {X Y} f := (hom f.base).app X.fiber ≫ (fib Y.base).map f.fiber
+  map_id X := by simp [hom_id]
+  map_comp f g := by simp [hom_comp]
+
+/-- `Grothendieck.apply` and `Grothendieck.functorFrom` fulfill a kind of "β reduction", in which
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Grothendieck.lean:356]: This docstring seems to be outdated.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 3]
```diff
@@ -306,6 +310,58 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+application and abstraction cancel each other out. -/
+theorem ι_functorFrom (c : C) : ι F c ⋙ (functorFrom fib hom hom_id hom_comp) = fib c := by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Grothendieck.lean:358]: We generally try to avoid non-definitional equality of functors. Is this equality unavoidably necessary in your application or would a natural isomorphism suffice?

Comment (javra) [reply Mathlib/CategoryTheory/Grothendieck.lean:358]: That's why I didn't make it a simp lemma. My gut feeling is that we'll need the equality but maybe it's also enough if it just reduces on objects, which it does... Maybe I'll just add the iso for now and add an equality option if we really need it later.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 4]
```diff
@@ -306,6 +310,56 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+@[simps]
+def functorFrom : Grothendieck F ⥤ E where
+  obj X := (fib X.base).obj X.fiber
+  map {X Y} f := (hom f.base).app X.fiber ≫ (fib Y.base).map f.fiber
+  map_id X := by simp [hom_id]
+  map_comp f g := by simp [hom_comp]
+
+/-- `Grothendieck.ι F c` composed with `Grothendieck.functorFrom` is isomorphic a functor on a fiber
+on `F` supplied as the first argument to `Grothendieck.functorFrom`. -/
+def ιFunctorFromIso (c : C) : ι F c ⋙ (functorFrom fib hom hom_id hom_comp) ≅ fib c :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Grothendieck.lean:358]: I think the name `ιCompFunctorFrom` more closely matches our usual naming for these things.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+
